I1 0 1 0 0 10 0 0 0  
I13 1 2 0 0 5 0 0 0  
R1 2 1 0 0 1e3 0 0 0 
R12 1 0 0 0 1e3 0 0 0 
I3 3 2 0 0 10 0 0 0  
Y4 0 3 0 0 5 0 0 0  
I5 0 3 0 0 5 0 0 0
.op 0 0 0 0 0 0 0 0
